US06376548B1
2-Methylpropanoic acid (carboxymethyl phosphonomethylcarbamoyloxy)-methyl ester (Compound 2-1 of Table 2)
A stirred solution of phosphonomethyl glycine (9.49 g, 56.2 mmol) in hexamethyldisilazane (25.5 mL, 121 mmol) was slowly heated to 90° C. (at this temperature it was noted out gassing of ammonia occurred). The reaction temperature was increased to 125° C. for 150 min at which time the reaction became homogeneous. The solution was allowed to cool to room temperature at which time, dry methylene chloride (60 mL) was added. The material (34.0 g, 74.5 mmol) was syringed into a flask and placed under a N2 atm. Methylene chloride (120 mL) was added and the solution cooled in a dry ice acetone bath. A solution of 2-methylpropanoic acid chlorocarbonyloxymethyl ester (10.7 g, 59.1 mmol) in 5 mL of methylene chloride was added dropwise over two minutes through a 3 mL syringe. After 10 minutes the cooling bath was removed and the reaction was allowed to warm to room temperature and stir for 12 h. The reaction solution was concentrated under reduced pressure and dissolved in 200 mL of methanol and allowed to stand for 4 h. The reaction was vacuum filtered and concentrated under reduced pressure. The oil was dissolved with 120 mL of dry acetone and allowed to stand for one hour, vacuum filtered, and concentrated under vacuum. The solid was triterated with 60 mL of warm hexanes and then placed under vacuum. Yield 14.0 grams. 1H-NMR (300 MHz, D2O) δ (ppm): 1.01 (dd, 6H), 2.51 (m, 1H), 3.47 (d, 2H), 4.09 (d, 2H), 5.63 (d, 2H).

reactant | phosphonomethyl glycine | 56.2 mmol, 9.49 g | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
reactant | hexamethyldisilazane | 121 mmol, 25.5 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | ammonia | N | H3N
reactant | 2-methylpropanoic acid chlorocarbonyloxymethyl ester | 59.1 mmol, 10.7 g | ClC(=O)OCOC(C(C)C)=O | C6H9ClO4
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-Methylpropanoic acid (carboxymethyl phosphonomethylcarbamoyloxy)-methyl ester | C(=O)(O)COP(=O)(O)CNC(=O)OCOC(C(C)C)=O | C9H16NO9P
